US05752982
C/Preparation of 6-Amino 7-Ethylindole
38.4 g of 6-nitro 7-ethylindoline were dissolved in 120 ml of absolute ethanol to which were added 19.2 g of palladium on charcoal at 10% (moisture 50%) and then heated to reflux for 2 hours.

reactant | 6-nitro 7-ethylindoline | 38.4 g | [N+](=O)([O-])C1=CC=C2CCNC2=C1CC | C10H12N2O2
solvent | ethanol | 120 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 19.2 g | [Pd] | Pd
product | 6-Amino 7-Ethylindole | NC1=CC=C2C=CNC2=C1CC | C10H12N2
